US07560596B2
Synthesis of 2′,4′-difluoro-biphenyl-4-sulfonic acid amide (FIG. 3, Entry 7)
The general procedure described in Example 3 was used with 4-chloro-benzenesulfonamide (192 mg, 1.00 mmol), 2,4-difluorophenylboronic acid (205 mg, 1.30 mmol), Pd(OAc)2 (2.2 mg, 0.010 mmol, 1 mol %), sodium 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl-3′-sulfonate (10.0 mg, 0.020 mmol, 2 mol %), K2CO3 (414 mg, 3.00 mmol), water (2.0 mL), 12 h, 80° C. The product was isolated as a white solid (258 mg, 96%). Mp=143° C. 1H NMR (400 MHz, d4-MeOH) δ: 7.98 (d, 2H, J=8.4 Hz), 7.87 (d, 1H, J=8.4 Hz), 7.63 (d, 2H, J=7.2 Hz), 7.49 (d, 2H, J=8.4 Hz), 7.05-6.99 (m, 2H). 13C NMR (125 MHz, d4-MeOH) δ: 165.5 (d), 163.0 (d), 162.3 (d), 159.8 (d), 144.0, 143.6, 140.0, 139.3, 133.1 (d), 133.0 (d), 130.5 (d), 130.2, 128.9, 127.4, 125.1 (d), 124.9 (d), 113.2 (d), 113.0 (d), 105.4 (t). IR (neat, cm−1): 3362, 3257, 1619, 1599, 1516, 1487, 1302, 1103, 965, 849, 809. Anal. Calcd for C12H9F2NO2S: C, 53.53; H, 3.37. Found: C, 53.34; H, 3.36.

reactant | 4-chloro-benzenesulfonamide | 1.00 mmol, 192 mg | ClC1=CC=C(C=C1)S(=O)(=O)N | C6H6ClNO2S
reactant | 2,4-difluorophenylboronic acid | 1.30 mmol, 205 mg | FC1=C(C=CC(=C1)F)B(O)O | C6H5BF2O2
reactant | K2CO3 | 3.00 mmol, 414 mg | C(=O)([O-])[O-].[K+].[K+]
catalyst | Pd(OAc)2 | 0.010 mmol, 2.2 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
catalyst | sodium 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl-3′-sulfonate | 0.020 mmol, 10.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C(=CC=C1OC)S(=O)(=O)[O-])OC)C1CCCCC1.[Na+]
solvent | water | 2.0 mL | O | H2O
product | 2′,4′-difluoro-biphenyl-4-sulfonic acid amide | 258 mg, 96% | FC1=C(C=CC(=C1)F)C1=CC=C(C=C1)S(=O)(=O)N | C12H9F2NO2S
